US08497381B2
Step 5: [6-Fluoro-2′-((3aS,8aR)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 25, Step 5, using the following starting materials: {6-fluoro-2′-[((1S,2R)-2-hydroxy-indan-1-ylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and phosgene (1.9M in toluene).

reactant | {6-fluoro-2′-[((1S,2R)-2-hydroxy-indan-1-ylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CN[C@@H]1[C@@H](CC2=CC=CC=C12)O)=O | C26H23F4NO3
reactant | phosgene | 1.9M | C(=O)(Cl)Cl | CCl2O
product | [6-Fluoro-2′-((3aS,8aR)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@H]2[C@@H]1C=1C=CC=CC1C2)=O)=O | C27H21F4NO4
